US05091419
To a solution of 1 g N,N'-dicycloheptyl-m-xylylenediamine in 50 ml n-hexane, was added dropwise with stirring 5 ml of a n-hexane solution containing 1 g 2,4-difluorophenyl isocyanate under ice cooling. Stirring was continued at room temperature for two hours, the solvent was distilled off under reduced pressure, and the residue was purified by silica gel column chromatography and then recrystallized from isopropanol, giving 1.6 g of 1,3-bis[[1-cycloheptyl-3-(2,4-difluorophenyl)ureido]methyl]benzene.

reactant | N,N'-dicycloheptyl-m-xylylenediamine | 1 g | C1(CCCCCC1)NCC1=CC(=CC=C1)CNC1CCCCCC1 | C22H36N2
reactant | 2,4-difluorophenyl isocyanate | 1 g | FC1=C(C=CC(=C1)F)N=C=O | C7H3F2NO
solvent | n-hexane | 50 ml | CCCCCC | C6H14
solvent | n-hexane | 5 ml | CCCCCC | C6H14
product | 1,3-bis[[1-cycloheptyl-3-(2,4-difluorophenyl)ureido]methyl]benzene | 1.6 g | C1(CCCCCC1)N(C(=O)NC1=C(C=C(C=C1)F)F)CC1=CC(=CC=C1)CN(C(=O)NC1=C(C=C(C=C1)F)F)C1CCCCCC1 | C36H42F4N4O2
